US06211215B1
In substantially the same manner as in Working Example 131, 2-(4-hydroxyphenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole was allowed to react with 4-chlorobenzylchloride to give 2-[4-(4-chlorobenzyloxy)phenyl]-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole. The yield was 30%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 151-152° C.

reactant | 2-(4-hydroxyphenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | OC1=CC=C(C=C1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C22H21N3O3
reactant | 4-chlorobenzylchloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | 2-[4-(4-chlorobenzyloxy)phenyl]-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | yield was 30% | ClC1=CC=C(COC2=CC=C(C=C2)C=2OC=C(N2)COC2=CC=C(C=C2)CCCN2C=NC=C2)C=C1 | C29H26ClN3O3
